US05872137
Then, 0.85 g of 4-(2-chlorobenzyloxy)-3,5-dichlorophenoxyacetaldehyde diethyl acetal was dissolved in 10 ml of acetic acid, to which 1 ml of concentrated hydrochloric acid was added dropwise, while stirring under ice cooling. After stirring under ice cooling for 2 hours, the reaction mixture was poured into ice water, and extracted twice with diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, followed by removal of the solvent by distillation under reduced pressure, which afforded 0.70 g of 4-(2-chlorobenzyloxy)-3,5-dichlorophenoxyacetaldehyde in crude form.

reactant | 4-(2-chlorobenzyloxy)-3,5-dichlorophenoxyacetaldehyde diethyl acetal | 0.85 g | C(C)OC(COC1=CC(=C(C(=C1)Cl)OCC1=C(C=CC=C1)Cl)Cl)OCC | C19H21Cl3O4
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | 4-(2-chlorobenzyloxy)-3,5-dichlorophenoxyacetaldehyde | 0.70 g | ClC1=C(COC2=C(C=C(OCC=O)C=C2Cl)Cl)C=CC=C1 | C15H11Cl3O3
